US07687502B2
3-Fluoro-2-({4-[(1-pyridin-2-yl-1H-pyrazol-3-yl)-amino]quinazolin-6-yl}oxy)benzonitrile
The compound of Example 133 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2,3-difluorobenzonitrile, 3-amino-1-(pyridin-2-yl)-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 2,3-difluorobenzonitrile | FC1=C(C#N)C=CC=C1F | C7H3F2N
reactant | 3-amino-1-(pyridin-2-yl)-1H-pyrazole | NC1=NN(C=C1)C1=NC=CC=C1 | C8H8N4
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 3-Fluoro-2-({4-[(1-pyridin-2-yl-1H-pyrazol-3-yl)-amino]quinazolin-6-yl}oxy)benzonitrile | FC=1C(=C(C#N)C=CC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C1=NC=CC=C1 | C23H14FN7O
